US03985811
2-Acetoxymethyl-5-chloro-α-(phenyl)benzyl bromide
To a solution of 45 g. of 2-acetoxymethyl-5-chloro-benzhydrol in 270 ml. of ethyl ether, 13.7 g. of phosphorus tribromide in 45 ml. ethyl ether is added and the solution is stirred for 3 hours at room temperature. The organic solution is successively washed with a sodium bicarbonate solution and with water. After drying over sodium sulfate and evaporation of the solvent, 43.1 grams of the crude title compound is obtained which may be used for further reaction steps. B.p. 175°-180° C. 0.5 mm Hg.

reactant | 2-acetoxymethyl-5-chloro-benzhydrol | C(C)(=O)OCC1=C(C(C2=CC=CC=C2)O)C=C(C=C1)Cl | C16H15ClO3
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-Acetoxymethyl-5-chloro-α-(phenyl)benzyl bromide | 43.1 grams | C(C)(=O)OCC1=C(C(C2=CC=CC=C2)Br)C=C(C=C1)Cl | C16H14BrClO2
